US05994368
A mixture of p-toluidine (10 g) and diethyl 2-methyl-3-oxosuccinate (18.9 g) in dichloromethane (50 ml) was refluxed for 2 days. The reaction mixture was poured onto 0.5N hydrochloric acid (200 ml) and extracted with dichloromethane. The organic layer was washed with water, 0.5N sodium hydroxide solution and brine, dried over magnesium sulfate, and concentrated. The obtained residue was added to heated diphenyl (80 g) and the mixture was refluxed for 15 minutes. The reaction mixture was allowed to stand at ambient temperature, and the resulting precipitates were collected by filtration to give ethyl 1,4-dihydro-3,6-dimethyl-4-oxoquinoline-2-carboxylate (16.3 g).

reactant | p-toluidine | 10 g | NC1=CC=C(C=C1)C | C7H9N
reactant | diethyl 2-methyl-3-oxosuccinate | 18.9 g | CC(C(=O)OCC)C(C(=O)OCC)=O | C9H14O5
reactant | hydrochloric acid | 0.5N, 200 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 1,4-dihydro-3,6-dimethyl-4-oxoquinoline-2-carboxylate | 16.3 g | CC1=C(NC2=CC=C(C=C2C1=O)C)C(=O)OCC | C14H15NO3
